US09376422B2
tert-Butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl](ethyl)amino}piperidine-1-carboxylate
To a stirred solution of tert-butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl]amino}piperidine-1-carboxylate (2.40 g, 6.28 mmol) in dichloromethane (50 mL) and acetic acid (1.8 mL) was added acetaldehyde (830 ul, 12.6 mmol) and sodium triacetoxyborohydride (4.00 g, 18.8 mmol). The reaction mixture was stirred at rt for 18 hours. Then aq. NaHCO3 was added and the mixture was separated. The aqueous layer was extracted with dichloromethane. The combined organic layer was concentrated in vacuo. The residue was purified by silica gel column chromatography (SiO2 heptane/ethylacetate=10/1) to give the titled compound as oil (2.40 g, 89% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.56 (s, 1H), 7.21 (d, J=1.6 Hz, 1H), 4.04 (m, 2H), 3.89 (s, 3H), 3.02 (q, J=7.0 Hz, 2H), 2.88 (m, 1H), 2.68 (m, 2H), 2.44 (s, 3H), 1.71 (m, 2H), 1.48-1.61 (m, 2H), 1.45 (s, 9H), 0.83-0.89 (t, J=7.0 Hz, 3H); MS (ES) [M+Na] 433.0.

reactant | tert-butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl]amino}piperidine-1-carboxylate | 6.28 mmol, 2.40 g | ClC=1C=C(C(=C(C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C)C(=O)OC | C19H27ClN2O4
reactant | acetaldehyde | 12.6 mmol, 830 ul | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 18.8 mmol, 4.00 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | acetic acid | 1.8 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl](ethyl)amino}piperidine-1-carboxylate | 2.40 g, 89% yield | ClC=1C=C(C(=C(C1)N(C1CCN(CC1)C(=O)OC(C)(C)C)CC)C)C(=O)OC | C21H31ClN2O4
